US08258144B2
To a mixture of 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.3 g, 0.61 mmol), Pd(PPh3)2Cl2 (0.086 g, 0.122 mmol) and pyridine-4-ylboronic acid (0.165 g, 1.342 mmol) in dioxane (3 mL) was added a solution of Na2CO3 (0.2 g, 1.83 mmol) in water (1.5 mL). After degassing, the mixture was heated at 100° C. for 1.5 h. The mixture was purified by flash column chromatography (Hexane/EtOAc=1:1) to give 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.241 g).

reactant | 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.61 mmol, 0.3 g | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C16H14ClIN4O2S
reactant | pyridine-4-ylboronic acid | 1.342 mmol, 0.165 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 1.83 mmol, 0.2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.122 mmol, 0.086 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-N-cyclopropyl-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.241 g | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C21H18ClN5O2S
